US04866077
N-Acetylmethyl-nicotinamide (73)
To a suspension of 40 g (0.370 mol) of aminoacetone in 500 ml of dry dichloromethane, 50 g (0.350 mol) of nicotinoyl chloride was added dropwise at room temperature under a nitrogen atmosphere. The mixture was refluxed 5 h followed by stirring overnight at room temperature. The colorless precipitate was collected by filtration and dissolved in 400 ml of water. After basification with ammonia the aqueous solution was extracted with 3×400 ml of dichloromethane. The combined organic phases were treated with charcoal and dried over magnesium sulphate. Removal of the solvent in vacuo gave a colorless solid, 73. Yield: 30.0 g (0.170 mol, 48%).

reactant | aminoacetone | 0.370 mol, 40 g | NCC(C)=O | C3H7NO
reactant | nicotinoyl chloride | 0.350 mol, 50 g | C(C1=CN=CC=C1)(=O)Cl | C6H4ClNO
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | N-Acetylmethyl-nicotinamide | C(C)(=O)CNC(C1=CN=CC=C1)=O | C9H10N2O2
